US07816526B2
Synthesis of 3-amino-6-isopropylpyridazine
3-Chloro-6-isopropylpyridazine (1.60 g, 10.2 mmol) and 28% ammonia water (15.0 ml) were introduced into a sealed tube reactor and stirred under pressure and heating at 140° C. for 24 hours and at 165° C. for 25 hours. The reaction solution was left and cooled, poured into water (30.0 ml), adjusted to pH 9, and extracted 3 times with ethyl acetate. The extracts were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give crude crystals. The crystals, while being washed with diisopropyl ether-hexane, were filtered to give the title compound as pale brown crystals. The yield was 0.41 g (29.3%).

reactant | 3-Chloro-6-isopropylpyridazine | 10.2 mmol, 1.60 g | ClC=1N=NC(=CC1)C(C)C | C7H9ClN2
reactant | ammonia water | 15.0 ml | O.N
solvent | water | 30.0 ml | O | H2O
product | 3-amino-6-isopropylpyridazine | NC=1N=NC(=CC1)C(C)C | C7H11N3
